US07786132B2
(iv) 1-(2-(5-Methyl-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one
5-Methyl-2-(methylsulfonyl)-4-(thiophen-2-yl)pyrimidine (0.1 g, 0.39 mmol) and 1-(2-aminoethyl)imidazolidin-2-one (0.06 g, 047 mmol) were added to a microwave tube along with toluene (1 mL). The tube was capped and heated to 200° C. for 10 min in a Personal Chemistry microwave. The mixture was diluted with dichloromethane and purified by flash chromatography using a gradient of 2 to 10% methanol in dichloromethane to obtain an off-white solid. Yield=0.03 g. MS (M+H)+ 304.

reactant | 5-Methyl-2-(methylsulfonyl)-4-(thiophen-2-yl)pyrimidine | 0.39 mmol, 0.1 g | CC=1C(=NC(=NC1)S(=O)(=O)C)C=1SC=CC1 | C10H10N2O2S2
reactant | 1-(2-aminoethyl)imidazolidin-2-one | 0.06 g | NCCN1C(NCC1)=O | C5H11N3O
reactant | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-(5-Methyl-4-(thiophen-2-yl)pyrimidin-2-ylamino)ethyl)imidazolidin-2-one | CC=1C(=NC(=NC1)NCCN1C(NCC1)=O)C=1SC=CC1 | C14H17N5OS
